US07576063B2
[3-Benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazol-4-yl]4-methoxyphenyl methanol
To a solution of 3-benzyloxy-4-formyl-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole (0.14 g) in tetrahydrofuran (1.8 mL) was added a solution of 4-methoxyphenylmagnesium bromide in tetrahydrofuran (0.5 mol/L, 0.96 mL) at room temperature and the mixture was stirred at room temperature for 1 hour. A small amount of water was added to the reaction mixture and the mixture was purified by column chromatography on aminopropylated silica gel (eluent: tetrahydrofuran). Further purification by column chromatography on silica gel (eluent: hexane/ethyl acetate=10/1-2/1) gave the title compound (0.11 g).

reactant | 3-benzyloxy-4-formyl-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazole | 0.14 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C=O)C1=CC=C(C=C1)OC)C(C)C | C21H22N2O3
reactant | 4-methoxyphenylmagnesium bromide | COC1=CC=C(C=C1)[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mol/L, 0.96 mL | O1CCCC1 | C4H8O
product | [3-Benzyloxy-1-isopropyl-5-(4-methoxyphenyl)-1H-pyrazol-4-yl]4-methoxyphenyl methanol | 0.11 g | C(C1=CC=CC=C1)OC1=NN(C(=C1C(O)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C(C)C | C28H30N2O4
